US07713994B2
A solution 1-methyl-4-(4-nitrophenyl)-1,4-diazepane in ethanol is hydrogenated overnight at atmospheric pressure over 10% Pd/C. The mixture is filtered through a pad of diatomaceous earth and concentrated under reduced pressure to give 4-(4-methyl-[1,4]-diazepan-1-yl)phenylamine as a dark maroon oil.

reactant | 1-methyl-4-(4-nitrophenyl)-1,4-diazepane | CN1CCN(CCC1)C1=CC=C(C=C1)[N+](=O)[O-] | C12H17N3O2
solvent | ethanol | C(C)O | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | 4-(4-methyl-[1,4]-diazepan-1-yl)phenylamine | CN1CCN(CCC1)C1=CC=C(C=C1)N | C12H19N3
